US06124331
7-Fluoro-2,3,4,5-tetrahydro-1-benzothiepin-5-one (1 equivalent) was dissolved in glacial acetic acid and stirred at room temperature. Bromine (2.5 equivalents) was added to the above mixture dropwise and stirring continued at room temperature for 4 hours. Water was added to the reaction mixture and the mixture was then extracted with 2×25 ml ethyl acetate. The combined ethyl acetate extracts were washed with water, saturated sodium bicarbonate, and water. The combined ethyl acetate extracts were dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo to afford a solid which was re-crystallized from ethyl acetate/hexane 1:1 v/v to afford 4-bromo-7-fluoro-2,3,4,5-tetrahydro-1-benzothiepin-5-one: 1H NMR (CDCl3) δ 7.55 (dd, 1H, J=2.7, 9.0 Hz), 7.44 (dd, 1H, J=8.7, 5.1 Hz), 7.11 (Apparent dt, 1H, J=2.7, 4.8 Hz), 5.34 (dd, 1H, J=5.7, 10.2 Hz), 3.20-2.50 (m, 4H).

reactant | 7-Fluoro-2,3,4,5-tetrahydro-1-benzothiepin-5-one | 1 equivalent | FC=1C=CC2=C(C(CCCS2)=O)C1 | C10H9FOS
reactant | Bromine | 2.5 equivalents | BrBr | Br2
reactant | Water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 4-bromo-7-fluoro-2,3,4,5-tetrahydro-1-benzothiepin-5-one | BrC1CCSC2=C(C1=O)C=C(C=C2)F | C10H8BrFOS
